US04431576
Using the procedure of Example 3, 1.51 g of (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylic acid chloride in 10 ml of benzene and 0.465 ml of ethanol were reacted to obtain 0.837 g of ethyl (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =-21°±1.5° (c=1% in chloroform).

reactant | (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylic acid chloride | 1.51 g | CC1([C@@H]([C@@H]1\C=C\C(=O)OC)C(=O)Cl)C | C10H13ClO3
reactant | ethanol | 0.465 ml | C(C)O | C2H6O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl (1R,cis) 2,2-dimethyl-3-[(E)-3-methoxy-3-oxo-1-propenyl]-cyclopropane-1-carboxylate | 0.837 g | CC1([C@@H]([C@@H]1\C=C\C(=O)OC)C(=O)OCC)C | C12H18O4
